US07709645B2
To a mixture of 5-bromo-3-(1H-indol-7-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (802 mg, 1.7 mmol) and 2-tert-butoxycarbonylamino-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester (641 mg, 1.7 mmol) in a 20 mL microwave reaction flask was added THF (6 mL), acetonitrile (6 mL) and sodium carbonate (6 mL, 1 N aqueous solution, 6 mmol). The mixture was purged with nitrogen for 1 minute. Dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct (122 mg, 170 μmol) was added and the purging continued for another minute. The flask was sealed and irradiated in a microwave reactor to 70° C. for 15 minutes. Saturated sodium chloride (15 mL) was added and the pH was adjusted to 7 using hydrochloric acid (1 N). The resulting mixture was extracted with ethyl acetate (10 mL×3). The combined organic layers were dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography on silica gel using a gradient of methanol in dichloromethane to afford 2-tert-butoxycarbonylamino-5-[3-(1H-indol-7-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid methyl ester as a yellow solid (605 mg, 56% yield). MS: m/z 637 (M+H+).

reactant | 5-bromo-3-(1H-indol-7-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 1.7 mmol, 802 mg | BrC=1C=C2C(=NC1)N(C=C2C=2C=CC=C1C=CNC21)S(=O)(=O)C2=CC=C(C=C2)C | C22H16BrN3O2S
reactant | 2-tert-butoxycarbonylamino-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | 1.7 mmol, 641 mg | COC(C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)OC(C)(C)C)=O | C19H28BNO6
reactant | sodium carbonate | 6 mmol, 1 N, 6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | 15 mL | [Cl-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
catalyst | Dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct | 170 μmol, 122 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2-tert-butoxycarbonylamino-5-[3-(1H-indol-7-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid methyl ester | 605 mg, 56% yield | COC(C1=C(C=CC(=C1)C=1C=C2C(=NC1)N(C=C2C=2C=CC=C1C=CNC21)S(=O)(=O)C2=CC=C(C=C2)C)NC(=O)OC(C)(C)C)=O | C35H32N4O6S
